US05817766
Preparation of 5-Hydroxy-2,2,4-trimethyl-7-pentyl-2H-1-benzopyran-3-propanoic acid
To a solution of 0.55 g (1.65 mmol) of 5-(Methoxymethoxy)-2,2,4-trimethyl-7-pentyl-2H-1-benzopyran-3-propanoic acid in 60 mL of tert-butyl alcohol (MCB Chem. Co.) under argon was added 4.16 g (10 eq.) of pyridinium para-toluenesulfonic acid (Aldrich) and the reaction mixture boiled under reflux for 1 hr. The reaction mixture was cooled with an ice-water bath and then partitioned between 500 mL of EtOAc and 100 mL of water. The phases were separated and the organic phase washed with water (5×100 mL), half-sat. aq. NaCl (1×100 mL), sat. aq. NaCi (1×100 mL), dried (Na2SO4), evaporated under reduced pressure and the residue dried under high vacuum to give discolored solids. The solids were redissolved and subjected to column chromatography on flash-grade silica gel, eluting with 10% MeOH-CHCl3. The fractions containing product were combined and solvent removed under reduced pressure to give, after drying under high vacuum, 143 mg of 5-Hydroxy-2,2,4-trimethyl-7-pentyl-2H-1-benzopyran-3-propanoic acid as a glass/amorphous solid. HR EI MS: Calc M+, 332.1988; Observed, 332.1985.

reactant | 5-(Methoxymethoxy)-2,2,4-trimethyl-7-pentyl-2H-1-benzopyran-3-propanoic acid | 1.65 mmol, 0.55 g | COCOC1=CC(=CC2=C1C(=C(C(O2)(C)C)CCC(=O)O)C)CCCCC | C22H32O5
reactant | pyridinium para-toluenesulfonic acid | 4.16 g, 10 eq. | C1(=CC=C(C=C1)S(=O)(=O)O)C.[NH+]1=CC=CC=C1
solvent | tert-butyl alcohol | 60 mL | C(C)(C)(C)O | C4H10O
product | 5-Hydroxy-2,2,4-trimethyl-7-pentyl-2H-1-benzopyran-3-propanoic acid | OC1=CC(=CC2=C1C(=C(C(O2)(C)C)CCC(=O)O)C)CCCCC | C20H28O4
